US07179912B2
5-(4-Acetylpiperazin-1-yl)-2-nitrophenylamine
A mixture of 5-chloro-2-nitrophenylamine (5 g, 29 mmol), 1-acetylpiperazine (29 mmol), and K2CO3 (4.0 g, 29 mmol) in DMF (20 mL) was stirred at 120° C. for 4 h. The reaction mixture was cooled to room temperature and poured into ice cold water (100 mL). The crude solid product was collected by filtration, air dried, and purified by flash chromatography (silica gel, 4×15 cm, eluted with CHCl3) to yield the product as orange crystals.

reactant | 5-chloro-2-nitrophenylamine | 29 mmol, 5 g | ClC=1C=CC(=C(C1)N)[N+](=O)[O-] | C6H5ClN2O2
reactant | 1-acetylpiperazine | 29 mmol | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | K2CO3 | 29 mmol, 4.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-(4-Acetylpiperazin-1-yl)-2-nitrophenylamine | C(C)(=O)N1CCN(CC1)C=1C=CC(=C(C1)N)[N+](=O)[O-] | C12H16N4O3
